US07560558B2
6-Hydroxy-benzothiazole (0.39 g) and iodine (1.32 g) were dissolved in methanol/water (15 ml/5 ml) to prepare a solution which was then stirred at room temperature for 2 days. An aqueous sodium sulfite solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give 6-hydroxy-7-iodo-benzothiazole (211 mg, yield 29%).

reactant | 6-Hydroxy-benzothiazole | 0.39 g | OC1=CC2=C(N=CS2)C=C1 | C7H5NOS
reactant | iodine | 1.32 g | II | I2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol water | 15 ml | CO.O
product | 6-hydroxy-7-iodo-benzothiazole | 211 mg, yield 29% | OC1=C(C2=C(N=CS2)C=C1)I | C7H4INOS
